US08802670B2
2-Chloro-6-(4-methanesulfonyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine was reacted with 2-amino-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline in general procedure A. Purification by column chromatography yielded 3-[6-(4-methanesulfonyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-2-yl]-benzene-1,2-diamine which was heated in formic acid at reflux for 4 h. After cooling to room temperature, the solution was poured into saturated aqueous sodiumhydrogen carbonate solution (20 mL) and extracted into dichloromethane (3×20 mL). The combined organics were washed with aqueous brine solution (2×20 mL), dried (MgSO4), reduced in vacuo and purified by column chromatography to give the title compound.

reactant | 2-Chloro-6-(4-methanesulfonyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)S(=O)(=O)C)N2CCOCC2 | C16H22ClN5O3S2
reactant | 2-amino-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | NC1=C(N)C=CC=C1B1OC(C(O1)(C)C)(C)C | C12H19BN2O2
product | 3-[6-(4-methanesulfonyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-2-yl]-benzene-1,2-diamine | CS(=O)(=O)N1CCN(CC1)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)C1=C(C(=CC=C1)N)N | C22H29N7O3S2
